US04996215
1-(5-Methyl-2-furanyl)methyl-4-(4-methylsulfonylaminobenzoyl)piperidine
1.88 ml of formalin and 1.07 g of methylfuran were added to a mixture of 4.43 g (15.7 mmol) of 4-(4-methylsulfonylaminobenzoyl)piperidine in free form obtained in Example 17, 1.57 ml of glacial acetic acid and 10 ml of water and the obtained mixture was stirred at 90° C. for 2 h. After cooling, the mixture was neutralized with a 20% aqueous sodium hydroxide solution and extracted with dichloromethane. The organic layer was washed with water and a saturated aqueous common salt solution, dried over magnesium sulfate and concentrated. The solid residue was recrystallized from ethanol/methanol to obtain 4.16 g (yield: 70%) of the intended compound.

reactant | formalin | 1.88 ml | C=O | CH2O
reactant | methylfuran | 1.07 g | CC=1OC=CC1 | C5H6O
reactant | 4-(4-methylsulfonylaminobenzoyl)piperidine | 15.7 mmol, 4.43 g | CS(=O)(=O)NC1=CC=C(C(=O)C2CCNCC2)C=C1 | C13H18N2O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | acetic acid | 1.57 ml | C(C)(=O)O | C2H4O2
product | 1-(5-Methyl-2-furanyl)methyl-4-(4-methylsulfonylaminobenzoyl)piperidine | 4.16 g, yield: 70% | CC1=CC=C(O1)CN1CCC(CC1)C(C1=CC=C(C=C1)NS(=O)(=O)C)=O | C19H24N2O4S
